** 555 timer **
XU1 GND TRIG OUT +5V XU1_5 THRES THRES +5V 555_BJT_EE
C2 GND XU1_5 0.01U
R1 THRES +5V 91K
C1 GND THRES 4.7U
R3 GND TRIG 1K
C3 TRIG +5V 100U
R2 OUT +5V 10K
C4 GND C4_2 470U
R4 C4_2 +5V 510
D2 C4_2 TRIG 1N4007
V738 +5V GND +5V


.SAVE OUT TRIG THRES
.tran 0 2s 0 10ms startup
.inc EDA/555_BJT_EE.SUB
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 30, 03
* MODEL FORMAT: SPICE3
.MODEL 1n4007 d
+IS=7.02767e-09 RS=0.0341512 N=1.80803 EG=1.05743
+XTI=5 BV=1000 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-07
+KF=0 AF=1